US05113021
Dehydrolinalool (400 g, 2.6 mol) and 5.26 g of triethylbenzylammonium chloride are added to a reaction flask. Chloroform (469.6 g, 3.9 mol) is added dropwise. To this solution 223.2 g (2.79 mol) of 50% sodium hydroxide solution are added dropwise within 50 minutes while cooling with ice, whereby the temperature of the reaction mixture rises to 34°. In time the initially viscous mass becomes fluid. After 21 hours of stirring and then again after 37 hours, there are added in each case within 20 minutes while cooling with ice, 160 ml of chloroform, 2.63 g of triethylbenzylammonium chloride and 111.6 g of 50% NaOH. The mixture is stirred at room temperature for a further 60 hours, poured onto ice-water, extracted with methylene chloride, washed neutral, dried over magnesium sulphate and evaporated. In this manner there are obtained 603.7 g (97%) of 5-(2',2'-dichloro-3'3'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol.

reactant | Dehydrolinalool | 2.6 mol, 400 g | CC(=CCCC(C)(C#C)O)C | C10H16O
reactant | sodium hydroxide | 2.79 mol, 223.2 g | [OH-].[Na+]
reactant | NaOH | 111.6 g | [OH-].[Na+]
reactant | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
reactant | Chloroform | 3.9 mol, 469.6 g | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 5.26 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
catalyst | triethylbenzylammonium chloride | 2.63 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 5-(2',2'-dichloro-3'3'-dimethylcyclopropyl)-3-methyl-1-pentyn-3-ol | 603.7 g, 97% | ClC1(C(C1(C)C)CCC(C#C)(O)C)Cl | C11H16Cl2O
